US05563147
3-(2-Mesyloxyethyl)benzoxazolin-2-one
Methanesulfonyl chloride (2.21 ml, 3.265 g, 28.5 mmol) was added to a stirred solution of 3-(2-hydroxyethyl)benzoxazolin-2-one (5 g, 27.933 mmol) (J. Heterocyclic Chemistry 1988, 25, 1601) and triethylamine (5.947 ml, 4.318 g, 42.75 mmol) in dichloromethane (60 ml) and stirred for three days at room temperature. The solvent was evaporated in vacuo and the residue partitioned between water and ethyl acetate, washed with hydrochloric acid (2M, 5×50 ml), sodium hydrogen carbonate (2×20 ml), dried (MgSO4), filtered and the solvent removed in vacuo to give the title product.

reactant | Methanesulfonyl chloride | 28.5 mmol, 2.21 ml, 3.265 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(2-hydroxyethyl)benzoxazolin-2-one | 27.933 mmol, 5 g | OCCN1C(OC2=C1C=CC=C2)=O | C9H9NO3
reactant | triethylamine | 42.75 mmol, 5.947 ml, 4.318 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 3-(2-Mesyloxyethyl)benzoxazolin-2-one | S(=O)(=O)(C)OCCN1C(OC2=C1C=CC=C2)=O | C10H11NO5S
